US08614209B2
5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester
Aluminium trichloride (4.26 g, 32.0 mmol) was dissolved in DCM (15 mL) and cooled to 0° C. Bromoacetyl bromide (1.78 mL, 20.4 mmol) was added slowly as a solution in DCM (7 mL) and stirred at 0° C. for 1 hour. Thiophene-3-carboxylic acid methyl ester (2.89 g, 20.4 mmol) was then added slowly as a solution in DCM (15 mL) and the mixture stirred overnight warming to room temperature. The mixture was poured into ice/water and extracted with DCM (×2) then the organics were washed with water, dried over sodium sulfate, filtered and evaporated. The residue was purified by chromatography on a 50 g silica II cartridge, eluting with 2:1 pentane:DCM to neat DCM, to give the title compound as a white solid (2.1 g). 1H NMR (400 MHz, CHCl3-d): δ 8.4 (d, 1H), 8.2 (d, 1H), 4.4 (s, 2H), 3.9 (s, 3H).

reactant | Aluminium trichloride | 32.0 mmol, 4.26 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Bromoacetyl bromide | 20.4 mmol, 1.78 mL | BrCC(=O)Br | C2H2Br2O
reactant | Thiophene-3-carboxylic acid methyl ester | 20.4 mmol, 2.89 g | COC(=O)C1=CSC=C1 | C6H6O2S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester | 2.1 g | COC(=O)C1=CSC(=C1)C(CBr)=O | C8H7BrO3S
